US04291044
256.7 g (1 mol) of 1-chloro-2-(4-fluorophenoxy)-4,4-dimethyl-penten-3-one in 150 ml of acetonitrile were added dropwise to a suspension of 90 g (1 mol) of sodium imidazole, prepared from sodium methylate and imidazole in methanol, in 2,5000 ml of acetonitrile, while stirring. Thereafter, the reaction mixture was heated to the boil for 6 hours. It was allowed to cool to room temperature and was concentrated by distilling off the solvent in vacuo. The residue was taken up in 1,000 ml of ethyl acetate, the ethyl acetate mixture was washed three times with 200 ml of water each time and the organic phase was dried over sodium sulphate and concentrated by distilling off the solvent in vacuo. 272.4 g (94.5% of theory) of crude 1-imidazol-1-yl)-2-(4-fluorophenoxy)-4,4-dimethyl-penten-3-one were obtained as a brown oil.

reactant | 1-chloro-2-(4-fluorophenoxy)-4,4-dimethyl-penten-3-one | 1 mol, 256.7 g | ClC=C(C(C(C)(C)C)=O)OC1=CC=C(C=C1)F | C13H14ClFO2
reactant | sodium imidazole | 1 mol, 90 g | N1C=NC=C1.[Na]
reactant | sodium methylate | C[O-].[Na+]
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | acetonitrile | 2,5000 ml | C(C)#N | C2H3N
product | 2-(4-fluorophenoxy)-4,4-dimethyl-penten-3-one | FC1=CC=C(OC(=C)C(C(C)(C)C)=O)C=C1 | C13H15FO2
